US07709479B1
Excess anhydrous hydrochloric acid in ethanol (1 ml) was added to a solution of 4-(methylthio)-6-methoxy-7-(cyanomethoxy)quinazoline (300 mg, 1.15 mmol) in dichloromethane (20 ml) and the reaction was stirred for 20 hours at 4° C. The solvent was evaporated, ethylene diamine (280 mg, 8.15 mmol) in ethanol (10 ml) was added to the residue, and the mixture was refluxed for 2 hours. Solvent evaporation in vacuo and purification by flash chromatography on silica gel, eluting with 5% methanol in dichloromethane, yielded 4-(methylthio)-6-methoxy-7-((4,5-dihydro-2-imidazolyl)methoxy)quinazoline (56 mg, 22% yield) as a white solid:

reactant | hydrochloric acid | Cl | ClH
reactant | 4-(methylthio)-6-methoxy-7-(cyanomethoxy)quinazoline | 1.15 mmol, 300 mg | CSC1=NC=NC2=CC(=C(C=C12)OC)OCC#N | C12H11N3O2S
reactant | ethylene diamine | 8.15 mmol, 280 mg | C(CN)N | C2H8N2
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(methylthio)-6-methoxy-7-((4,5-dihydro-2-imidazolyl)methoxy)quinazoline | 56 mg, 22% yield | CSC1=NC=NC2=CC(=C(C=C12)OC)OCC=1NCCN1 | C14H16N4O2S
